US04904770
2',3'-Dideoxy-2',3'-didehydrouridine (d4U)
5'O-trityl-2',3'-dideoxy-2',3'-didehydrouridine (0.5 gm., 1.1 mM) was dissolved in a chloroform (10 mL) and methanol (2 mL) mixture containing 2% p-toluenesulphonic acid. The reaction mixture was stirred at room temperature for 0.75 hr., and then neutralized with 2N NaOH (0.5 mL). The solvent was removed in vacuo and the residue chromatographed on silica using chloroform/acetone (2:1) as eluent. The desired product was isolated as a white crystalline solid with the same physical and spectroscopic characteristics as d4U produced by an alternative method.

reactant | 5'O-trityl-2',3'-dideoxy-2',3'-didehydrouridine | 1.1 mM, 0.5 gm | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1C=C[C@@H](O1)N1C(=O)NC(=O)C=C1 | C28H24N2O4
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaOH | 2N, 0.5 mL | [OH-].[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 mL | CO | CH4O
product | 2',3'-Dideoxy-2',3'-didehydrouridine | [C@@H]1(C=C[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H10N2O4
